US07667041B2
Boron tribromide (1M methylene chloride solution, 100 mL) was gradually added dropwise to a methylene chloride (100 mL) solution of 3-methoxy-4-fluoro benzaldehyde (4.4 g) under ice-cooling. The reaction solution was agitated at room temperature for 2 hours after the dropping ended. The reaction solution was again cooled with ice, iced water was gradually added to the reaction solution to terminate the reaction, and further 5N hydrochloride solution was added until the pH reached 1. After condensing the reaction solution under reduced pressure, water and ethyl acetate were added to the residue, and the organic layer was separated. The obtained organic layer was washed with a saturated sodium chloride solution, and the solvent was evaporated under reduced pressure after dried over anhydrous magnesium sulfate. The obtained residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate 4:1), and 3.18 g (79%) of 4-fluoro-3-hydroxybenzaldehyde was obtained. The physical properties of the compound are as follows.

reactant | Boron tribromide | 1M, 100 mL | B(Br)(Br)Br | BBr3
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
reactant | 3-methoxy-4-fluoro benzaldehyde | 4.4 g | COC=1C=C(C=O)C=CC1F | C8H7FO2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-3-hydroxybenzaldehyde | 3.18 g, 79% | FC1=C(C=C(C=O)C=C1)O | C7H5FO2
